US04022833
In a manner similar to that of Example 1, condensation of 1-octene oxide (42 g.) and hexamethylenediamine (19.05 g.) and recrystallization of the resulting product from methanol gave N,N'-(1,6-hexylene)-bis[2-hydroxyoctylamine] (I: R= CH3 (CH2)5, R' = H, X= (CH2)6, Z= H) (17.2 g., m.p. 124.0°-127.4° C.).

reactant | 1-octene oxide | 42 g | C1C(CCCCCC)O1 | C8H16O
reactant | hexamethylenediamine | 19.05 g | NCCCCCCN | C6H16N2
solvent | methanol | CO | CH4O
product | N,N'-(1,6-hexylene)-bis[2-hydroxyoctylamine] | C(CCCCCNCC(CCCCCC)O)NCC(CCCCCC)O | C22H48N2O2
